US08871753B2
Step D: 3-Amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}benzenesulfonamide
To a solution N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}-3-nitrobenzenesulfonamide (50.0 mg, 0.11 mmol) in water (0.08 mL), methanol (0.42 mL) and acetic acid (0.17 mL) was added iron (15 mg, 0.28 mmol) powder in small quantities. When the addition was completed, the mixture was stirred in water bath for 3 h and the reaction was complete. The mixture was filtered and the cake was washed with MeOH/EtOAc. The brown filtrate was concentrated and diluted with H2O, and the aqueous layer was extracted with EtOAc three times. The combined organic layers were dried, filtered and concentrated to give the desired product as a light brown powder (42 mg, 90%). LCMS for C17H15Cl2N5O2S (M+H)+: m/z=424.0, 426.0, 428.0. 1H NMR (400 MHz, CD3OD): δ 8.22 (t, J=2.0 Hz, 1H), 8.52 (ddd, J=8.0, 2.0, 1.2 Hz, 1H), 7.48 (m, 1H), 7.40 (t, J=8.0 Hz, 1H), 7.28 (m, 1H), 7.20 (t, J=8.0 Hz, 1H), 7.08 (ddd, J=8.4, 2.0, 1.2, 1H), 6.84 (ddd, J=8.0, 1.6, 1.2, 1H), 4.21 (s, 2H).

reactant | N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}-3-nitrobenzenesulfonamide | 0.11 mmol, 50.0 mg | ClC1=NC=C(C(=N1)NC=1C=C(CNS(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1)Cl | C17H13Cl2N5O4S
solvent | water | 0.08 mL | O | H2O
solvent | methanol | 0.42 mL | CO | CH4O
solvent | acetic acid | 0.17 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.28 mmol, 15 mg | [Fe] | Fe
product | 3-Amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]benzyl}benzenesulfonamide | 42 mg, 90% | NC=1C=C(C=CC1)S(=O)(=O)NCC1=CC(=CC=C1)NC1=NC(=NC=C1Cl)Cl | C17H15Cl2N5O2S
